US08168659B2
(±)-3-Hydroxy-5-m-tolyl-1-(4-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one
Charge THF (20 mL, 5 vols) to a flask containing (±)-5-(3-methyl-phenyl)-1-(4-trifluoromethoxy-phenyl)-3-(4-trifluoromethoxy-phenylamino)-1,5-dihydro-pyrrol-2-one (4.18 g, 8.22 mmol). Add acetic acid (1.88 mL, 32.89 mmol,) to the above clear solution to afford a yellow solution. Add 2,5-dimethoxytetrahydrofuran (1.28 mL, 9.87 mmol,), then add water (0.2 mL, 9.87 mmol). Add TFA (1.25 mL, 16.44 mmol,) to the reaction mixture and observe a slight exotherm (23 to 30° C.). Heat the reaction mixture to 40° C. for 22 hours. Pour the brown solution into water (50 mL) and extract with ethyl acetate (50 mL×2). Wash the organic phase with saturated sodium bicarbonate solution (20 mL×2), brine (50 mL), dry over magnesium sulfate and evaporate to afford the titled compound. MS (m/z): 350.1 (M+1).

reactant | (±)-5-(3-methyl-phenyl)-1-(4-trifluoromethoxy-phenyl)-3-(4-trifluoromethoxy-phenylamino)-1,5-dihydro-pyrrol-2-one | 8.22 mmol, 4.18 g | CC=1C=C(C=CC1)C1C=C(C(N1C1=CC=C(C=C1)OC(F)(F)F)=O)NC1=CC=C(C=C1)OC(F)(F)F | C25H18F6N2O3
reactant | acetic acid | 32.89 mmol, 1.88 mL | C(C)(=O)O | C2H4O2
reactant | 2,5-dimethoxytetrahydrofuran | 9.87 mmol, 1.28 mL | COC1OC(CC1)OC | C6H12O3
reactant | TFA | 16.44 mmol, 1.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 9.87 mmol, 0.2 mL | O | H2O
product | (±)-3-Hydroxy-5-m-tolyl-1-(4-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one | OC=1C(N(C(C1)C=1C=C(C=CC1)C)C1=CC=C(C=C1)OC(F)(F)F)=O | C18H14F3NO3
